US06426345B1
A mixture of 3-amino-2-[3-methoxycarbonyl-5-(2-naphthoylamino)phenylamino]pyridine (180 mg) and 3-phenylpyruvic acid (86 mg) in methanol (4 ml) was stirred under reflux for 4 hours. The precipitate was collected and washed with methanol to give 2-benzyl-4-[3-methoxycarbonyl-5-(2-naphthoylamino)phenyl]-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (169 mg).

reactant | 3-amino-2-[3-methoxycarbonyl-5-(2-naphthoylamino)phenylamino]pyridine | 180 mg | NC=1C(=NC=CC1)NC1=CC(=CC(=C1)NC(=O)C1=CC2=CC=CC=C2C=C1)C(=O)OC | C24H20N4O3
reactant | 3-phenylpyruvic acid | 86 mg | C1(=CC=CC=C1)CC(C(=O)O)=O | C9H8O3
solvent | methanol | 4 ml | CO | CH4O
product | 2-benzyl-4-[3-methoxycarbonyl-5-(2-naphthoylamino)phenyl]-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 169 mg | C(C1=CC=CC=C1)C1=NC2=C(N(C1=O)C1=CC(=CC(=C1)NC(=O)C1=CC3=CC=CC=C3C=C1)C(=O)OC)N=CC=C2 | C33H24N4O4
